US20010018525A1
step 3 4-methoxybenzoic acid, 6-aminohexyl ester
A mixture of 4-methoxybenzoic acid, 6-azidohexyl ester (1.119 g, 4.035 mmol), triphenylphosphine (1.164 g, 4.439 mmol), and water (0.08 ml) in THE was stirred under nitrogen at room temperature. After ˜144 h, the reaction mixture was diluted with EtOAc (50 ml), dried over NaSO4, filtered and the filtrate concentrated in vac and dried. The residue was purified by flash chromatography (2×)(alumina, chloroform to 10% MeOH/CHCl3 gradient) to give the desired product as a light yellow oil (.0796 g, 78%); 1H NMR (400 MHz, DMSO-d6) δ1.18-1.40 (m, 6H), 1.63-1.71 (m, 2H), 2.50 (t, J= 6.4 Hz, 2H), 3.82 (s, 3H), 4.21 (t, J=6.6 Hz, 2H), 7.01-7.06 (m, 2H), 7.87-7.92 (m, 2H); IR (KBr) 3410 (broad), 2940, 1710, 1605, 1510, 1260 cm−1; mass spectrum[(+)ESI], m/z 252 (M+H)+.

reactant | 4-methoxybenzoic acid, 6-azidohexyl ester | 4.035 mmol, 1.119 g | COC1=CC=C(C(=O)OCCCCCCN=[N+]=[N-])C=C1 | C14H19N3O3
reactant | triphenylphosphine | 4.439 mmol, 1.164 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.08 ml | O | H2O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 4-methoxybenzoic acid, 6-aminohexyl ester | .0796 g, 78% | COC1=CC=C(C(=O)OCCCCCCN)C=C1 | C14H21NO3
